US04659718
A solution of butyl lithium in hexane (1.6M, 67.5 ml) was added to a stirred mixture of 5-methyltetrazole (4.54 g), and dry tetrahydrofuran (200 ml) at 0°. After stirring for 1 hour, 1-methyl-1H-3,1-benzoxazine-2,4-dione (9.6 g) was added and stirring continued for 65 hours at room temperature. The mixture was poured into water (300 ml) and acidified with 5N hydrochloric acid (12 ml). The organic phase was separated and the aqueous phase was extracted with dichloromethane (2×200 ml). The organic phases were combined, dried over anhydrous magnesium sulphate, and evaporated. The resulting solid was triturated with dichloromethane:industrial methylated spirit 9:1 (200 ml). The solid product was collected and recrystallised from ethyl acetate to give the novel compound 1-(2-methylaminophenyl)-2-(1H-tetrazol-5-yl)ethanone, m.p. 199°-201°.

reactant | butyl lithium | C(CCC)[Li]
reactant | 5-methyltetrazole | 4.54 g | CC1=NN=NN1 | C2H4N4
reactant | 1-methyl-1H-3,1-benzoxazine-2,4-dione | 9.6 g | CN1C(OC(C2=C1C=CC=C2)=O)=O | C9H7NO3
reactant | hydrochloric acid | 5N, 12 ml | Cl | ClH
solvent | hexane | 1.6M, 67.5 ml | CCCCCC | C6H14
solvent | water | 300 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(2-methylaminophenyl)-2-(1H-tetrazol-5-yl)ethanone | CNC1=C(C=CC=C1)C(CC1=NN=NN1)=O | C10H11N5O
